US07569536B2
Concentrated hydrochloric acid (2.00 ml, 24.0 mmol) and anhydrous tin dichloride (2.50 g, 13.1 mmol) were sequentially added at 0° C. to a methanol (10 ml) solution containing 1-[2-nitro-4-(trifluoromethyl)phenyl]piperidine (559 mg, 2.03 mmol), obtained as described in Referential Example 1-1A. The resulting mixture was warmed to room temperature and then stirred for 17.5 hours. A saturated aqueous solution of sodium bicarbonate was added to the mixture. The resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50 g, hexane/ethyl acetate=14/1)). Thus, 2-(l-piperidinyl)-5-(trifluoromethyl)aniline (448 mg, 1.83 mmol, 90.4%) was yielded as a pale yellow solid.

reactant | hydrochloric acid | 24.0 mmol, 2.00 ml | Cl | ClH
reactant | tin dichloride | 13.1 mmol, 2.50 g | [Sn](Cl)Cl
reactant | 1-[2-nitro-4-(trifluoromethyl)phenyl]piperidine | 2.03 mmol, 559 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCCCC1 | C12H13F3N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(l-piperidinyl)-5-(trifluoromethyl)aniline | 1.83 mmol, 448 mg, 90.4% | N1(CCCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C12H15F3N2
